US04914112
To 4-(2-Fluoro-4-biphenylyl)-3-oxo-pentanenitrile (2.75 g, 10.3 mmol) in ethanol (70 ml) was added hydroxylamine hydrochloride (1.1 g, 15.8 mmol) in pyridine (10 ml). After addition, the mixture was stirred at room temperature overnight, then evaporated under reduced pressure to a residue, which was chromatographed and then recrystalyzed to afford 5-amino-3-(1-(2-fluoro-4-biphenylyl)ethyl)isoxazole (2.20 g, 76% yield) as crystalline material: mp 122°-123° C.

reactant | 4-(2-Fluoro-4-biphenylyl)-3-oxo-pentanenitrile | 10.3 mmol, 2.75 g | FC1=C(C=CC(=C1)C(C(CC#N)=O)C)C1=CC=CC=C1 | C17H14FNO
reactant | hydroxylamine hydrochloride | 15.8 mmol, 1.1 g | Cl.NO
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-amino-3-(1-(2-fluoro-4-biphenylyl)ethyl)isoxazole | 2.20 g, 76% yield | NC1=CC(=NO1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C17H15FN2O
